US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-3-(p-anisidino)propionic acid and ethyl 3-aminopropionate and suitable processing produces ethyl N-[N-(p-chlorobenzoyl)-3-(p-anisidino)propionyl]-3-aminopropionate (oil), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-3-(p-anisidino)propionyl]-3-aminopropionic acid (M.P. 171° to 172°).

reactant | N-(p-chlorobenzoyl)-3-(p-anisidino)propionic acid | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CCC(=O)O)C=C1 | C17H16ClNO4
reactant | ethyl 3-aminopropionate | NCCC(=O)OCC | C5H11NO2
product | ethyl N-[N-(p-chlorobenzoyl)-3-(p-anisidino)propionyl]-3-aminopropionate | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CCC(=O)NCCC(=O)OCC)C=C1 | C22H25ClN2O5
